US06750236B2
tert-Butyl 2-[[4-[2-[[2-[(2,5-dimethyl-4-methoxyphenyl)amino]-2-oxoethyl](2-furanylmethyl)-amino]ethyl]phenyl]thio]-2-methyl-propanoate
98 mg of 1,1-dimethylethyl 2-[[4-[2-[(carboxymethyl)(2-furanylmethyl)amino]-ethyl]phenyl]thio]-2-methyl-propanoate, 33 mg of hydroxybenzotriazole, 0.09 ml of triethylamine, 34 mg of 2,5-dimethyl-4-methoxyaniline and 49 mg of N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide hydrochloride are dissolved in 5 ml of dichloromethane. The mixture is stirred at room temperature for 20 h and extracted with 1 N NaOH, 1 N HCl, water and sat. NaCl solution. The combined organic phases are dried (MgSO4) and purified chromatographically (dichloromethane/ethyl acetate 5+1). This gives 48 mg of a viscous oil.

reactant | 1,1-dimethylethyl 2-[[4-[2-[(carboxymethyl)(2-furanylmethyl)amino]-ethyl]phenyl]thio]-2-methyl-propanoate | 98 mg | C(=O)(O)CN(CCC1=CC=C(C=C1)SC(C(=O)OC(C)(C)C)(C)C)CC=1OC=CC1 | C23H31NO5S
reactant | hydroxybenzotriazole | 33 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 2,5-dimethyl-4-methoxyaniline | 34 mg | CC1=C(N)C=C(C(=C1)OC)C | C9H13NO
reactant | N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide hydrochloride | 49 mg | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | triethylamine | 0.09 ml | C(C)N(CC)CC | C6H15N
product | tert-Butyl 2-[[4-[2-[[2-[(2,5-dimethyl-4-methoxyphenyl)amino]-2-oxoethyl](2-furanylmethyl)-amino]ethyl]phenyl]thio]-2-methyl-propanoate | CC1=C(C=C(C(=C1)OC)C)NC(CN(CCC1=CC=C(C=C1)SC(C(=O)OC(C)(C)C)(C)C)CC=1OC=CC1)=O | C32H42N2O5S
